US07727988B2
5-(2-Chloro-pyridin-3-yl)-1-(3,3-dimethoxy-propyl)-1H-pyrimidine-2,4-dione (Prep96)
To a suspension of 5-(2-chloro-pyridin-3-yl)-1H-pyrimidine-2,4-dione hydrochloride salt (Prep95, 803 mg, 3.10 mmol) and K2CO3 (428 mg, 3.10 mmol) in DMF (15 ml), 90% 3-bromo-1,1dimethoxy-propane (516 μl, 3.41 mmol) was added in three portions over 5 days. The mixture was contemporarily stirred at room temperature. Solvent was then removed in vacuum at 40° C. The residue washed with petroleum ether and then with ethyl acetate. Ethyl acetate phase was dried (Na2SO4), filtered and evaporated. The crude was purified by flash chromatography eluting with DCM-MeOH—NH4OH (98:2:0.2) to give 400 mg of the final compound as a white solid (40% yield)

reactant | 5-(2-chloro-pyridin-3-yl)-1H-pyrimidine-2,4-dione hydrochloride salt | 3.10 mmol, 803 mg | Cl.ClC1=NC=CC=C1C=1C(NC(NC1)=O)=O
reactant | K2CO3 | 3.10 mmol, 428 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromo-1,1dimethoxy-propane | 3.41 mmol, 516 μl | BrCCC(OC)OC | C5H11BrO2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 5-(2-Chloro-pyridin-3-yl)-1-(3,3-dimethoxy-propyl)-1H-pyrimidine-2,4-dione | 400 mg, 40% yield | ClC1=NC=CC=C1C=1C(NC(N(C1)CCC(OC)OC)=O)=O | C14H16ClN3O4
